US08026257B2
(±)-tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-methoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate.
To a solution of (±)-tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate (193 mg, 0.66 mmol) and 7-(1-bromoethyl)-5-methoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole (240 mg, 0.623 mmol) in dimethylformamide (2.5 mL) at 0° C. was added sodium hydride (60% in mineral oil, 32.4 mg, 0.81 mmol). The resulting solution was stirred at 0° C. for 30 min. The reaction was quenched by the cautious addition of saturated ammonium chloride and diluted with diethyl ether. The ethereal was washed with water (2×), then brine, dried over magnesium sulfate, and concentrated. Column chromatography (15%→25% EtOAc/Hex) gave 29 mg (7.6%) as oil. 1H-NMR (CDCl3, 300 MHz) δ 7.88 (s, 1H), 7.25-7.30 (m, 2H), 6.95-7.00 (m, 2H), 6.6606.71 (m, 2H), 5.60 (s, 2H), 4.88 (q, J=6.0 Hz, 1H), 3.77 (s, 3H), 3.66-3.71 (m, 2H), 3.53-3.59 (m, 2H), 3.28-3.41 (m, 2H), 1.40 (m, 12H), 0.85-0.9 (m, 2H), -0.08 (s, 9H), 13C-NMR (CDCl3, 76 MHz) δ 161.2 (d, J=972 Hz), 155.5, 154.9, 143.9, 138.8, 135.3, 128.8, 122.3, 121.5, 116.1, 115.0, 114.7, 94.9, 81.4, 79.2, 73.9, 67.0, 60.3, 55.1, 41.2, 31.8, 28.4, 22.6, 20.9, 17.7, 14.1, −1.6; Mass spec.: 614.63 (MH)+.

reactant | (±)-tert-butyl 4-(4-fluorophenyl)-4-(hydroxymethyl)piperidine-1-carboxylate | 0.66 mmol, 193 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)CO | C17H24FNO3
reactant | 7-(1-bromoethyl)-5-methoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazole | 0.623 mmol, 240 mg | BrC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)OC | C16H25BrN2O2Si
reactant | sodium hydride | 0.81 mmol, 32.4 mg | [H-].[Na+]
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | (±)-tert-Butyl 4-(4-fluorophenyl)-4-((1-(5-methoxy-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethoxy)methyl)piperidine-1-carboxylate | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COC(C)C1=CC(=CC2=CN(N=C12)COCC[Si](C)(C)C)OC | C33H48FN3O5Si
